US04640915
N,N-Diisopropyl-N-ethylamine (0.309 ml) was added to a solution of 4-nitrobenzyl (2R,5R,6R)-3,7-dioxo-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-1-azabicyclo[3.2.0]heptane-2-carboxylate (800 mg) and 4-(N,N-dimethylamino)pyridine (18 mg) in methylene chloride (40 ml) at -30° C. To this mixture was added a solution of trifluoromethanesulfonic anhydride (0.261 ml) in methylene chloride (2.35 ml). After the mixture was stirred at -30° C. for 30 minutes, to the reaction mixture was added N,N-diisopropyl-N-ethylamine (0.772 ml) at -30° C., and further a solution of 5-methyl-1,3,4-thiadiazole-2-thiol (205 mg) in N,N-dimethylformamide (10 ml) was added. The mixture was allowed to warm to ambient temperature over a period of 30 minutes and stirred at the same temperature for 2.5 hours. The resultant mixture was evaporated in vacuo and the residue was dissolved in ethyl acetate (100 ml). The solution was washed with water and a saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on deactivated silica gel with 10% water (10 g), eluting with a mixture of benzene and acetone (50:1 to 20:1) to give 4-nitrobenzyl (5R,6R)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-3-(5-methyl-1,3,4-thiadiazol-2-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (824 mg) as an oil.

reactant | N,N-Diisopropyl-N-ethylamine | 0.309 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-nitrobenzyl (2R,5R,6R)-3,7-dioxo-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-1-azabicyclo[3.2.0]heptane-2-carboxylate | 800 mg | O=C1[C@@H](N2C([C@H]([C@H]2C1)C(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C25H23N3O11
reactant | trifluoromethanesulfonic anhydride | 0.261 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N,N-diisopropyl-N-ethylamine | 0.772 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-methyl-1,3,4-thiadiazole-2-thiol | 205 mg | CC1=NN=C(S1)S | C3H4N2S2
catalyst | 4-(N,N-dimethylamino)pyridine | 18 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2.35 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-nitrobenzyl (5R,6R)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-3-(5-methyl-1,3,4-thiadiazol-2-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 824 mg | CC(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@H]1[C@H]2CC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])SC=1SC(=NN1)C | C28H25N5O10S2
